US06271225B1
12-Anino-8-fluoro-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine hydrochloride (102 g) was suspended in toluene (600 ml), and the mixture was stirred under reflux with heating for 3 hours to remove water. The mixture was cooled to 70° C. under a nitrogen atmosphere, and N-methylpiperazine (300 ml) was added. The mixture was stirred with heating under a nitrogen atmosphere until the inside temperature reached 120° C. while removing toluene for 1.5 hours. The mixture was heated under a nitrogen atmosphere at 120° C. for 2.5 hours and cooled to 25° C. under a nitrogen atmosphere. Ethyl acetate (600 ml) and water (450 ml) were added to the reaction mixture for extraction and the obtained ethyl acetate layer was washed three times with water (300 ml). After confirming pH 7-8 of washing water, the solvent was concentrated under reduced pressure. Acetonitrile (100 ml) was added and the mixture was azeotropically concentrated to dryness under reduced pressure. To the residue was added acetonitrile (300 ml) and the mixture was heated for dissolution. The solution was cooled and stirred at −10° C.-−5° C. for 2.5 hours to allow precipitation of crystals. The precipitated crystals were filtered by suction and washed with acetonitrile (100 ml), followed by drying to give 8-fluoro-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine (65.5 g).

reactant | 12-Anino-8-fluoro-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine hydrochloride | 102 g | Cl.NC=1C2=C(NC3=C(N1)C=CC(=C3)F)SC3=C2C=CC=C3
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 8-fluoro-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | 65.5 g | FC1=CC2=C(N=C(C3=C(N2)SC2=C3C=CC=C2)N2CCN(CC2)C)C=C1 | C20H19FN4S
